US08445493B2
3-(4-Fluorophenyl)-4,5-dimethyl-6-(2-methylpiperazin-1-yl)pyridazine
Add a solution of 3-(4-benzyl-2-methylpiperazin-1-yl)-6-(4-fluorophenyl)-4,5-dimethylpyridazine (200 mg, 3.25 mmol) in absolute EtOH (15 mL) to 10% Pd/C (46.8 mg) pre-wetted with EtOH (5 mL). Shake the mixture in a Parr bottle pressurized with H2 at 60 psi for 10 h. Filter the reaction mixture, and apply the solution directly to an SCX column (Varian, 2 g). Rinse the column with MeOH and CH2Cl2. Elute the product with a 1:1 mixture of 2 M NH3/MeOH and CH2Cl2. Concentrate the eluent under reduced pressure to afford the title compound as an off-white foam (142 mg, 92%). ES/MS m/z 301.2 (M+1).

reactant | 3-(4-benzyl-2-methylpiperazin-1-yl)-6-(4-fluorophenyl)-4,5-dimethylpyridazine | 3.25 mmol, 200 mg | C(C1=CC=CC=C1)N1CC(N(CC1)C=1N=NC(=C(C1C)C)C1=CC=C(C=C1)F)C | C24H27FN4
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 46.8 mg | [Pd] | Pd
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-(4-Fluorophenyl)-4,5-dimethyl-6-(2-methylpiperazin-1-yl)pyridazine | 142 mg, 92% | FC1=CC=C(C=C1)C=1N=NC(=C(C1C)C)N1C(CNCC1)C | C17H21FN4
